rectifier
*SPICE Netlist generated by Advanced Sim server on 4/23/2026 1:49:48 PM
.options MixedSimGenerated

*Schematic Netlist:
CC1 NetC1_1 0 100nF
DD1 NetD1_2 NetC1_1 GENERATED_MODEL_DD1
DD2 NetD2_2 NetC1_1 GENERATED_MODEL_DD2 TEMP=-50°C to +175°C
DD3 0 NetD2_2 GENERATED_MODEL_DD3 TEMP=-50°C to +175°C
DD4 0 NetD1_2 GENERATED_MODEL_DD4 TEMP=-50°C to +175°C
RJ1 NetD2_2 NetD1_2 1K TC1=0 TC2=0
RJ2 NetC1_1 0 1K TC1=0 TC2=0
LLED1 0 NetLED1_2 1u
RR1 NetLED1_2 NetC1_1 1K TC1=0 TC2=0

.PLOT {V(NetC1_1)} =PLOT(1) =AXIS(1)

*Selected Circuit Analyses:
.TRAN 0.1u 5u 0 0.1u

*Models and Subcircuits:
.MODEL GENERATED_MODEL_DD1 D( BV=1000 IS=76.9n RS=0.05 )

.MODEL GENERATED_MODEL_DD2 D( BV=1000 IS=76.9n RS=0.05 )

.MODEL GENERATED_MODEL_DD3 D( BV=1000 IS=76.9n RS=0.05 )

.MODEL GENERATED_MODEL_DD4 D( BV=1000 IS=76.9n RS=0.05 )

.MODEL diode D ()

.END